US06958145B2
Phosphorus pentoxide (11.5 g) was added with stirring to a solution of 2,3-dibromo-3-methyl-4-oxopentanoic acid (4.6 g, 16.0 mmol) in dry dichloromethane (30 ml). The mixture was heated at reflux with stirring for 2 h. It was cooled to room temperature and the resulting mixture was filtered through a pad of filter aid and treated with 1,4-diazabicyclo[2.2.2]octane (DABCO) (2.24 g, 14.8 mmol). The mixture was stirred at room temperature for 1 h, washed with dilute hydrochloric acid (2N, 10 ml), brine (20 ml), dried over sodium sulfate, and chromatographed on a short plug of silica gel to yield the 3-bromo-4-methyl-5-(methylene)-2(5H)furanone as a colourless oil (2.14 g, 83%).

reactant | Phosphorus pentoxide | 11.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2,3-dibromo-3-methyl-4-oxopentanoic acid | 16.0 mmol, 4.6 g | BrC(C(=O)O)C(C(C)=O)(C)Br | C6H8Br2O3
reactant | 1,4-diazabicyclo[2.2.2]octane | 14.8 mmol, 2.24 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-bromo-4-methyl-5-(methylene)-2(5H)furanone | 2.14 g, 83% | BrC=1C(OC(C1C)=C)=O | C6H5BrO2
